US09107916B2
B. (3E)-4-hydroxy-1-phenylbut-3-en-2-one
To a solution of 1-phenylpropan-2-one (1.78 g, 13 mmol) in anhydrous diethyl ether (50 ml) containing sodium cut in small pieces (299 mg, 13 mmol), ethyl formate (1.4 g, 20 mmol) was added slowly with stirring and ice-cooling. After standing overnight at rt, water was added, and the ether layer was washed with water. The organic phase was dried, concentrated, and purified by flash column chromatography (PE/EtOAc=10:1) to give the title compound (1.2 g, 57%) as a yellow oil.

reactant | 1-phenylpropan-2-one | 13 mmol, 1.78 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | sodium | [Na] | Na
reactant | ethyl formate | 20 mmol, 1.4 g | C(=O)OCC | C3H6O2
reactant | water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (3E)-4-hydroxy-1-phenylbut-3-en-2-one | 1.2 g, 57% | O/C=C/C(CC1=CC=CC=C1)=O | C10H10O2
